data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_457992_2,[C:1]1([C:2]([H:15])([H:16])[H:17])([C:3]([H:14])([H:18])[H:19])[C:7]([N:5]([N:8]([H:12])[H:13])[H:10])([N:6]([C:4]([H:20])([H:21])[H:22])[H:11])[O:9]1>>[C:1]([C:2]([H:15])([H:16])[H:17])([C:3]([H:14])([H:18])[H:19])([N:6]([C:4]([H:20])([H:21])[H:22])[H:11])[C:7]([N:5]([N:8]([H:12])[H:13])[H:10])=[O:9],40.00751750000603
MR_208204_1,[C:1](/[C:5](=[C:4](\[N:2]([O:6][C:3]([O:7][H:9])=[O:8])[H:10])[H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C@:5]([C:3]([O:7][H:9])=[O:8])([C@@:4]1([H:11])[N:2]([H:10])[O:6]1)[H:12])([H:13])([H:14])[H:15],69.02186250001648
MR_99393_0,[C:1]([C:2]([H:12])([H:13])[H:14])(/[C:4](=[C:5](\[C:3]([H:15])([H:16])[H:17])[H:11])[O:6][H:8])([O:7][H:9])[H:10]>>[C:1](\[C:2]([H:12])([H:13])[H:14])(=[C:4](\[C:5]([C:3]([H:15])([H:16])[H:17])([O:7][H:9])[H:11])[O:6][H:8])[H:10],64.93432749999243
MR_438814_0,[C@:1]1([O:5][C:2]([H:11])([H:12])[H:13])([O:6][H:9])[C:3](=[O:8])[N:7][C:4]1[H:10]>>[C@@:1]1([C:3]([O:5][C:2]([H:11])([H:12])[H:13])=[O:8])([O:6][H:9])[C:4]([H:10])[N:7]1,54.58810749996857
MR_395205_1,[C:1]([N:3](/[C:4](=[C:5](\[C:2]([H:17])([H:18])[H:19])[O:8][H:9])[N:7]([H:12])[H:13])[N:6]([H:10])[H:11])([H:14])([H:15])[H:16]>>[C:1]([C:5]([C:2]([H:17])([H:18])[H:19])(/[C:4](=[N:3]/[N:6]([H:10])[H:11])[N:7]([H:12])[H:13])[O:8][H:9])([H:14])([H:15])[H:16],65.8686749999876
MR_306611_1,[C:1](=[C:2]([N:5]([H:12])[H:13])/[C:6](=[N:7]\[H:14])[H:15])([N:3]([H:8])[H:9])[N:4]([H:10])[H:11]>>[C:1]1([N:3]([H:8])[H:9])([N:4]([H:10])[H:11])[C:2]([N:5]([H:12])[H:13])=[C:6]([H:15])[N:7]1[H:14],42.97182749997674
MR_332688_0,[N:1](\[C:4](=[O:8])[H:10])=[C:5](\[C:6]1([H:12])[N:2]([H:9])[C:3]1=[O:7])[H:11]>>[n:1]1([C:4](=[O:8])[H:10])[n:2]([H:9])[c:3](=[O:7])[c:6]([H:12])[c:5]1[H:11],47.421430000014055
MR_83659_0,[C@@:1]([C:3]([H:18])([H:19])[H:20])(/[C:4]([N:5]([H:10])[H:11])=[C:7](/[N:6]([H:12])[H:13])[H:14])([O:8][C:2]([H:15])([H:16])[H:17])[H:9]>>[C:1](\[C:3]([H:18])([H:19])[H:20])(=[C:4](/[N:5]([H:10])[H:11])[C@:7]([N:6]([H:12])[H:13])([O:8][C:2]([H:15])([H:16])[H:17])[H:14])[H:9],50.08454000003184
MR_703363_0,[C:1]([N:3](/[C:4](=[C:5](/[C:6]([C:2]([H:18])([H:19])[H:20])=[C:9]([H:21])[H:22])[N:8]([H:13])[H:14])[N:7]([H:11])[H:12])[H:10])([H:15])([H:16])[H:17]>>[C:1]([N:3](/[C:5](=[C:4](/[C:6]([C:2]([H:18])([H:19])[H:20])=[C:9]([H:21])[H:22])[N:7]([H:11])[H:12])[N:8]([H:13])[H:14])[H:10])([H:15])([H:16])[H:17],65.87118499998127
MR_588346_0,[C:1]1([N:4]([H:11])[H:12])([C:6](=[C:8]([H:18])[H:19])[H:15])[C:2]([C:3]([N:5]([H:13])[H:14])=[C:7]([H:16])[H:17])([H:10])[O:9]1>>[C:1]([C:2]([C:3]([N:5]([H:13])[H:14])=[C:7]([H:16])[H:17])([C:6](=[C:8]([H:18])[H:19])[H:15])[H:10])([N:4]([H:11])[H:12])=[O:9],50.16987999999472
MR_655847_0,[C:1]([N:5]([H:10])[H:11])([O:6]/[C:3]([N:4]([H:8])[H:9])=[N:7]/[C:2]([H:14])([H:15])[H:16])([H:12])[H:13]>>[C:1]([N:5]([H:10])[H:11])([N:7]([C:2]([H:14])([H:15])[H:16])[C:3]([N:4]([H:8])[H:9])=[O:6])([H:12])[H:13],30.71361500000052
MR_138238_1,[C:1]([C:2]([C:4]([H:18])([H:19])[H:20])([N:6]([H:13])[H:14])[O:8][H:10])([C:3]([H:15])([H:16])[H:17])([N:5]([H:11])[H:12])[O:7][H:9]>>[C:1]([C:2]([C:4]([H:18])([H:19])[H:20])([N:6]([H:13])[H:14])[O:7][H:9])([C:3]([H:15])([H:16])[H:17])([N:5]([H:11])[H:12])[O:8][H:10],70.2938049999797
MR_577271_1,[C:1](/[C:4](=[C:5](/[C:2]([H:16])([H:17])[H:18])[O:8][H:10])[O:7][C:3]([N:6]([H:11])[H:12])=[O:9])([H:13])([H:14])[H:15]>>[C:1]([C:4]1([C:5]([C:2]([H:16])([H:17])[H:18])([N:6]([H:11])[H:12])[O:8][H:10])[C:3](=[O:9])[O:7]1)([H:13])([H:14])[H:15],69.48181999999662
MR_437503_0,[C:1](\[C:4]([H:18])([H:19])[H:20])(=[C:6](\[C:3]([H:15])([H:16])[H:17])[O:9][H:10])[C:7]([N:5]([C:2]([H:12])([H:13])[H:14])[H:11])=[C:8]([H:21])[H:22]>>[C:1]([C:4]([H:18])([H:19])[H:20])([C:6]([C:3]([H:15])([H:16])[H:17])=[O:9])([C:7]([N:5]([C:2]([H:12])([H:13])[H:14])[H:10])=[C:8]([H:21])[H:22])[H:11],40.798794999970056
MR_406336_1,[C:1]([C:3]([N:2](/[N:5]=[N:6]\[H:8])[H:7])=[C:4]([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:1](/[C:3](=[N:2]/[H:7])[C:4](/[N:5]=[N:6]\[H:8])([H:12])[H:13])([H:9])([H:10])[H:11],54.325812500024426
MR_157192_2,[C:1]([C:5]([C:6]([C:2]([H:14])([H:15])[H:16])([C:3]([H:17])([H:18])[H:19])/[C:7](=[N:4]\[H:9])[H:10])=[O:8])([H:11])([H:12])[H:13]>>[C:1]([C:5]([N:4]([C:7](=[C:6]([C:2]([H:14])([H:15])[H:16])[C:3]([H:17])([H:18])[H:19])[H:10])[H:9])=[O:8])([H:11])([H:12])[H:13],58.6656024999823
MR_93871_0,[n:1]1([H:9])[c:2]([N:4]([H:10])[H:11])[c:3]([O:6][H:8])[c:5]([H:12])[n:7]1>>[N:1](=[C:2](/[C:3]1([O:6][H:8])[C:5]([H:12])=[N:7]1)[N:4]([H:10])[H:11])\[H:9],65.88938250000666
MR_519515_0,[C:1]([C:3]([H:16])([H:17])[H:18])([N:4]([C:2]([H:13])([H:14])[H:15])[C:5]([N:6]([H:11])[H:12])=[O:8])([O:7][H:9])[H:10]>>[C:1]([C:3]([H:16])([H:17])[H:18])([N:4]([C:2]([H:13])([H:14])[H:15])[C:5]([N:6]([H:11])[H:12])([O:8][H:9])[H:10])=[O:7],66.67501249998494
MR_558167_0,[C:1]([N:2]([H:8])[H:9])(/[N:5]=[C:3](\[O:4][H:7])[H:11])=[N:6]/[H:10]>>[C:1]([N:5][C@:3]([N:2]([H:8])[H:9])([O:4][H:7])[H:11])[N:6][H:10],45.27224250001851
